US06531502B1
3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (9.7 g) in 100 mL of tetrahydrofuran was stirred with 8.1 g of carbonyl diimidazole for 1 hour. Dimethylamine (2.5 g) was added and the mixture stirred for 2 hours. The solvent was evaporated and the residue taken up in ethyl acetate, washed with water, 0.1 N hydrochloric acid, water, and brine, dried over sodium sulfate and evaporated to give 7.7 g (70% yield) of 3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid dimethyl amide.

reactant | 3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 9.7 g | N1C=C(C=2CCCCC12)CCC(=O)O | C11H15NO2
reactant | carbonyl diimidazole | 8.1 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Dimethylamine | 2.5 g | CNC | C2H7N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid dimethyl amide | 7.7 g, 70% yield | CN(C(CCC1=CNC=2CCCCC12)=O)C | C13H20N2O
